US09085555B2
G. Methyl 2-(3-acetyl-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate
To methyl 2-(3-acetyl-5-hydroxy-1H-indazol-1-yl)acetate (1.80 g, 7.25 mmol) in CH3CN (75 mL) was added 2-(chloromethyl)pyrimidine hydrochloride salt (1.32 g, 7.98 mmol) and Cs2CO3 (5.91 g, 18.13 mmol). The reaction mixture was stirred at 70° C. for 2 h. The reaction mixture was filtered and washed with CH3CN. Solvent was evaporated and the crude mixture was purified by flash column chromatography on silica gel (gradient: c-hexane/EtOAc 1:1 to 1:3). TLC, Rf (c-hexane/EtOAc 1:3)=0.35; MS (LC/MS): 340.9 [M+H]+, 363.0 [M+Na]+; tR (HPLC conditions c): 3.64 min.

reactant | methyl 2-(3-acetyl-5-hydroxy-1H-indazol-1-yl)acetate | 7.25 mmol, 1.80 g | C(C)(=O)C1=NN(C2=CC=C(C=C12)O)CC(=O)OC | C12H12N2O4
reactant | 2-(chloromethyl)pyrimidine hydrochloride salt | 7.98 mmol, 1.32 g | Cl.ClCC1=NC=CC=N1
reactant | Cs2CO3 | 18.13 mmol, 5.91 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 75 mL | CC#N | C2H3N
product | Methyl 2-(3-acetyl-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate | C(C)(=O)C1=NN(C2=CC=C(C=C12)OCC1=NC=CC=N1)CC(=O)OC | C17H16N4O4
